US05017578
To a suspension of NaHCO3 (50 g, 0.7 mole) in 100 ml dichloromethane (DCM) was added a solution of 1H-indol-1-amine (36 g, 0.27 mole) in 200 ml DCM. After cooling to 0° C. with an ice bath, a solution of ethyl chloroformate (29 ml, 0.30 mole) in 50 ml DCM was added over a period of thirty minutes. After stirring at ambient temperature for three hours, the mixture was filtered, and the filtrate washed with water, then dried (saturated NaCl, anhydrous MgSO4). After filtering, the solvent was evaporated to an oil which was eluted on a silica gel column with DCM, via high performance liquid chromatography (HPLC) to give N-(1H-indol-1-yl) carbamic acid ethyl ester, 33.6 g (61%) as an oil. To a cold solution of N-(1H-indol-1-yl) carbamic acid ethyl ester (15 g, 0.07 mole) in 100 ml tetrahydrofuran, was added potassium t-butoxide (9 g, 0.08 mole), and the mixture stirred at 5° C. for one hour. To this was added 1-bromopropane (7.3 ml, 0.08 mole), and the mixture stirred at ambient temperature for five hours. The mixture was poured into 300 ml iced-water, stirred for five minutes, then extracted with ethyl acetate. The organic layer was washed with water, then dried (saturated, NaCl, anhydrous MgSO4). After filtering, the solvent was evaporated to give N-(1H-indol-1-yl)-N-propylcarbamic acid ethyl ester as an oil, 16.5 g (91%). To a solution of N-(1H-indol-1-yl)-N-propylcarbamic acid ethyl ester (16.5 g, 0.067 mole) in 35 ml ethylene glycol, was added a solution of NaOH (10 g, 0.25 mole) in 30 ml water. After stirring at 120° C. for four hours, the mixture was poured into 300 ml ice water, stirred for five minutes, then extracted with ethyl acetate. The organic layer was washed with water, then dried (saturated NaCl, anhydrous MgSO4). After filtering, the solvent was evaporated to give N-(1H-indol-1-yl)-N-propylamine, 9.0 g (78%) as an oil.

reactant | N-(1H-indol-1-yl)-N-propylcarbamic acid ethyl ester | 0.067 mole, 16.5 g | C(C)OC(N(CCC)N1C=CC2=CC=CC=C12)=O | C14H18N2O2
reactant | NaOH | 0.25 mole, 10 g | [OH-].[Na+]
solvent | ethylene glycol | 35 ml | C(CO)O | C2H6O2
solvent | water | 30 ml | O | H2O
product | N-(1H-indol-1-yl)-N-propylamine | N1(C=CC2=CC=CC=C12)NCCC | C11H14N2
